US07696191B2
tert-Butyl 3-[(3-hydroxy-5-propan-2-yloxy-benzoyl)amino]pyrazole-1-carboxylate
To a solution of tert-butyl 3-[(3-phenylmethoxy-5-propan-2-yloxy-benzoyl)amino]pyrazole-1-carboxylate (76.4 g) in methanol (764 ml) was added 10% palladium on carbon (7.6 g) and the resulting mixture was stirred under an atmosphere of hydrogen at a pressure of 5 bar for 20 hours. The catalyst was removed by filtration through Celite. The filtrate was concentrated under vacuum to leave a solid (66 g). This was purified by flash chromatography on silica, eluting with ethyl acetate in isohexane (10 to 70%) to give the title compound (56.4 g).

reactant | tert-butyl 3-[(3-phenylmethoxy-5-propan-2-yloxy-benzoyl)amino]pyrazole-1-carboxylate | 76.4 g | C1(=CC=CC=C1)COC=1C=C(C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)C=C(C1)OC(C)C | C25H29N3O5
solvent | methanol | 764 ml | CO | CH4O
catalyst | palladium on carbon | 7.6 g | [Pd] | Pd
product | tert-Butyl 3-[(3-hydroxy-5-propan-2-yloxy-benzoyl)amino]pyrazole-1-carboxylate | 66 g | OC=1C=C(C(=O)NC2=NN(C=C2)C(=O)OC(C)(C)C)C=C(C1)OC(C)C | C18H23N3O5
